US07622461B2
8-Chloro-2-methoxy-11-(piperazin-1-yl)-5H-dibenzo[b,e][1,4]diazepine (160FE20A)
8-Chloro-2-methoxy-5,10-dihydro-dibenzo[b,e][1,4]diazepine-11-one (28 mg, 0.1 mmol) and piperazine (86 mg, 1.0 mmol) were reacted according to GP4 to give 19 mg of the title compound (160FE20A). MS (ESI) 342 (MH+). Purity for MH+ (UV/MS) 99/100.

reactant | 8-Chloro-2-methoxy-5,10-dihydro-dibenzo[b,e][1,4]diazepine-11-one | 0.1 mmol, 28 mg | ClC=1C=CC2=C(NC(C3=C(N2)C=CC(=C3)OC)=O)C1 | C14H11ClN2O2
reactant | piperazine | 1.0 mmol, 86 mg | N1CCNCC1 | C4H10N2
product | 8-Chloro-2-methoxy-11-(piperazin-1-yl)-5H-dibenzo[b,e][1,4]diazepine | 19 mg | ClC=1C=CC2=C(N=C(C3=C(N2)C=CC(=C3)OC)N3CCNCC3)C1 | C18H19ClN4O
